US06800627B1
(RS) 7-Chloro-1,2,3,4,10,10a-hexahydropyrazino[1,2-a]indole
To a stirred solution of 7-chloro-1,2,3,4-tetrahydropyrazino[1,2-a]indole (1.185 g, 5.73 mmol) in acetic acid (40 mL) under Ar at 10° C. was added portion-wise over 5 min sodium cyanoborohydride (1.19 g, 18.94 mmol). The resultant mixture was allowed to warm to ambient temperature, and was stirred for 24 h. The mixture was poured into water (200 mL) and was basified (pH 8-9) by the careful addition, with cooling, of ammonium hydroxide (60 mL) over 5 min. The basified mixture was extracted with chloroform (3×200 mL), the combined organic extracts washed with brine (200 mL), dried (magnesium sulfate), and concentrated in vacuo. The residue was purified by flash chromatography [SiO2; ethyl acetate-methanol-ammonium hydroxide (90:8:2)] to afford the title compound (768 mg, 64%) as a colourless oil: NMR δH (400 MHz, CDCl3) 1.60 (1H, br s), 2.50 (1H, ddd, J 15.1, 9.0, 1.0 Hz), 2.74 (1H, dd, J 11.5, 10.5 Hz), 2.79-2.99 (4H, m), 3.04 (1H, dd, J 11.5, 3.5 Hz), 3.42-3.52 (2H, m), 6.37 (1H, d, J 2.0 Hz), 6.57 (1H, dd, J 7.5, 2.0 Hz) and 6.92-6.96 (1H, m).

reactant | 7-chloro-1,2,3,4-tetrahydropyrazino[1,2-a]indole | 5.73 mmol, 1.185 g | ClC=1C=CC=2C=C3N(C2C1)CCNC3 | C11H11ClN2
reactant | sodium cyanoborohydride | 18.94 mmol, 1.19 g | C(#N)[BH3-].[Na+]
reactant | water | 200 mL | O | H2O
reactant | ammonium hydroxide | 60 mL | [OH-].[NH4+]
solvent | acetic acid | 40 mL | C(C)(=O)O | C2H4O2
product | (RS) 7-Chloro-1,2,3,4,10,10a-hexahydropyrazino[1,2-a]indole | 768 mg, 64% | ClC=1C=CC=2CC3N(C2C1)CCNC3 | C11H13ClN2
